### PR TITLE
characteristic predicate of tensor product

### PR DESCRIPTION
**Pull request by jjaassoonn**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/IsTensorProduct.lean [hunk 1]
```diff
@@ -0,0 +1,295 @@
...
+  f.balanced r m n
+
+variable (tmul : BalancedBiAddMonoidHom R M N X)
+
+class IsTensorProduct :=
+(lift ⦃P : Type uX⦄ [AddCommMonoid P] (_ : BalancedBiAddMonoidHom R M N P) : X →+ P)
+(lift_comp ⦃P : Type uX⦄ [AddCommMonoid P] (f : BalancedBiAddMonoidHom R M N P) (m : M) (n : N) :
+  lift f (tmul m n) = f m n)
+(lift_uniq ⦃P : Type uX⦄ [AddCommMonoid P] (f : BalancedBiAddMonoidHom R M N P) (fHat : X →+ P) :
+  (∀ m n, fHat (tmul m n) = f m n) → lift f = fHat)
```
Comment (alreadydone) [inline Mathlib/LinearAlgebra/IsTensorProduct.lean:70]: Note we already have [IsTensorProduct](https://leanprover-community.github.io/mathlib4_docs/Mathlib/RingTheory/IsTensorProduct.html#IsTensorProduct), which is defined in terms of the canonical map from the explicit tensor product being an isomorphism. If you really want to characterize tensor products using a universal property, [here](https://leanprover.zulipchat.com/#narrow/stream/113489-new-members/topic/Setting.20up.20definitions/near/272082753) are my old thoughts about the universe level restriction.

Comment (jjaassoonn) [reply Mathlib/LinearAlgebra/IsTensorProduct.lean:70]: I am just experimenting to see if I can remove  the commutative assumption and write down a characteristic predicate of tensor product over noncommutative rings.

Comment (jjaassoonn) [reply Mathlib/LinearAlgebra/IsTensorProduct.lean:70]: I can prove an induction principal using this characteristic predicate
```lean
lemma IsTensorProduct.mem_closure (x : X) :
    x ∈ AddSubgroup.closure { y | ∃ (m : M) (n : N), y = tmul m n } := by

lemma IsTensorProduct.induction {motive : X → Prop}
    (tensor : ∀ m n, motive (tmul m n))
    (add : ∀ x x', motive x → motive x' → motive (x + x'))
    (neg : ∀ x, motive x → motive (-x)) :
    ∀ x, motive x := sorry
```
These depends on `M, N` being `AddCommGroup`, but this is because I didn't figure out how to quotient `AddCommMonoid` by `AddSubmonoid`

Comment (alreadydone) [reply Mathlib/LinearAlgebra/IsTensorProduct.lean:70]: You'd need to use AddConGen; not every `AddSubmonoid` of `AddCommMonoid ` is the kernel of some AddMonoidHom (unless the monoid is cancellative, I think).

File: Mathlib/LinearAlgebra/IsTensorProduct.lean [hunk 2]
```diff
@@ -0,0 +1,362 @@
...
+  lift_uniq P _ f fHat H := FunLike.ext _ _ fun x => x.induction_on (by aesop)
+    (fun m n => by rw [show fHat (m ⊗ₜ n) = _ from H m n]; rfl)
+    (fun z z' h h' => by simp only [map_add, h, h'])
+
+instance : Module S (M ⊗[R] N) :=
+  have i1 := IsTensorProduct.rightModule (B := R) (C := S) (M := M) (N := N) (X := M ⊗[R] N)
+  @Module.compHom _ _ (M ⊗[R] N) _ _ (@i1 _ (isTensorProduct1 R M N)) _
+    ((RingHom.id S).toOpposite mul_comm)
+
+example (s : S) (m : M) (n : N) : s • (m ⊗ₜ[R] n) = m ⊗ₜ (s • n) := rfl
```
Comment (jjaassoonn) [inline Mathlib/LinearAlgebra/IsTensorProduct.lean:360]: when $R, S$ are both commutative rings and $M$ an $R$-module and $N$ an $(R, S)$-bimodule, then $M\otimes_R N$ is both an $R$-module and an $S$-module. this characteristic predicate can handle it

File: Mathlib/LinearAlgebra/IsTensorProduct.lean (hunk 1 above)
Comment (eric-wieser) [reply Mathlib/LinearAlgebra/IsTensorProduct.lean]: The commutativity assumption is easy to remove, but it breaks anyone who wants to take tensor products of algebras until we also fix #7152

File: Mathlib/LinearAlgebra/IsTensorProduct.lean [hunk 3]
```diff
@@ -0,0 +1,362 @@
...
+
+variable (R : Type uR) [Semiring R]
+variable {M : Type uM} [AddCommGroup M] [Module Rᵐᵒᵖ M]
+variable {N : Type uN} [AddCommGroup N] [Module R N]
+variable {X : Type uX} [AddCommGroup X]
+
+variable (tmul : BalancedBiAddMonoidHom R M N X) [IsTensorProduct R tmul]
+
+lemma IsTensorProduct.mem_closure (x : X) :
+    x ∈ AddSubgroup.closure { y | ∃ (m : M) (n : N), y = tmul m n } := by
```
Comment (alreadydone) [inline Mathlib/LinearAlgebra/IsTensorProduct.lean:86]: You may be able to prove the [AddSubmonoid.closure](https://leanprover-community.github.io/mathlib4_docs/Mathlib/GroupTheory/Submonoid/Basic.html#AddSubmonoid.closure) version by first showing that for any two AddCommMonoid satisfying the IsTensorProduct predicate is isomorphic (in a way compatible with the tmul), and carry out the explicit [TensorProduct](https://leanprover-community.github.io/mathlib4_docs/Mathlib/LinearAlgebra/TensorProduct.html#TensorProduct)[TensorProduct](https://leanprover-community.github.io/mathlib4_docs/Mathlib/LinearAlgebra/TensorProduct.html#TensorProduct) construction, which clearly is generated by the `tmul m n`. The only thing you need to change is [TensorProduct.Eqv.of_smul](https://leanprover-community.github.io/mathlib4_docs/Mathlib/LinearAlgebra/TensorProduct.html#TensorProduct.Eqv), I believe.

Comment (jjaassoonn) [reply Mathlib/LinearAlgebra/IsTensorProduct.lean]: Kevin reminded me that one can use the characteristic predicate to prove `X -> span` and `span -> X` compose to identity on `span` and `X`, so that this must be true. Thanks for your suggestion

File: Mathlib/LinearAlgebra/IsTensorProduct.lean [hunk 4]
```diff
@@ -0,0 +1,381 @@
...
+(lift ⦃P : Type uX⦄ [AddCommMonoid P] (_ : BalancedBiAddMonoidHom R M N P) : X →+ P)
+(lift_comp ⦃P : Type uX⦄ [AddCommMonoid P] (f : BalancedBiAddMonoidHom R M N P) (m : M) (n : N) :
+  lift f (tmul m n) = f m n)
+(lift_uniq ⦃P : Type uX⦄ [AddCommMonoid P] (f : BalancedBiAddMonoidHom R M N P) (fHat : X →+ P) :
+  (∀ m n, fHat (tmul m n) = f m n) → lift f = fHat)
+
+end defs
+
+section addGroups
+-- I feel like these should work for "semimodules" as well, but I don't know how to prove it
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/IsTensorProduct.lean:107]: You're already using semimodules?

Comment (jjaassoonn) [reply Mathlib/LinearAlgebra/IsTensorProduct.lean:107]: Ah, yes. I forgot to update this string. Thanks!

**Comment by jjaassoonn** [comment]
This characteristic predicate is more restrictive in universe levels compared to concrete `TensorProduct.lift` as the argument `P` for the abstract version has to be small relative to some universe

**Comment by jjaassoonn** [comment]
stole ideas from #8638

**Comment by joneugster** [comment]
Mathlib has moved to PRs from forks. This PR is still from a branch of the main repository and will soon be closed! Please migrate the content to a fork and reopen a PR from there if you wish to do so. See [Zulip topic](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/all.20future.20PRs.20should.20be.20made.20from.20forks/with/624081853) for more instructions. Thank you for contributing to mathlib!
